US04478967
2-Nitrobenzyl perfluorooctanoate (Compound 1)
Perfluorooctanoyl chloride (21.6 g, 0.05 mol) was added slowly with stirring to a solution of 2-nitrobenzyl alcohol (7.65 g, 0.05 mol) and triethylamine (5.2 g, 0.05 mol) in 100 ml benzene. During the addition, the temperature was allowed to rise to 50° C. and the triethylamine hydrochloride began to precipitate. After the addition was complete, the reaction was stirred an additional 30 minutes. The reaction was filtered and the filtrate evaporated in vacuo to give an oil which crystallized on cooling in an ice bath (m.p. 34°-35° C.). Benzene washings of the material retained on the filter paper gave a second fraction of oil which crystallized on cooling. Total yield was 11.97 g.

reactant | Perfluorooctanoyl chloride | 0.05 mol, 21.6 g | FC(C(=O)Cl)(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C8ClF15O
reactant | 2-nitrobenzyl alcohol | 0.05 mol, 7.65 g | [N+](=O)([O-])C1=C(CO)C=CC=C1 | C7H7NO3
reactant | triethylamine | 0.05 mol, 5.2 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-Nitrobenzyl perfluorooctanoate | FC(C(=O)OCC1=C(C=CC=C1)[N+](=O)[O-])(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C15H6F15NO4
